US04822790
To a solution of 0.308 g of (3S,4S)-4-acetoxy-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine in 3 ml of DMF is added under ice-cooling a solution of 0.061 g of sodium azide is 2 ml of water. The mixture is stirred for 18 hours at room temperature, to which is added water, then the resulting precipitates are collected by filtration to give 0.216 g of (3S)-4-azido-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine.

reactant | (3S,4S)-4-acetoxy-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine | 0.308 g | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)NC(C(=NOC)C=1N=C(SC1)NC(CCl)=O)=O | C13H14ClN5O6S
reactant | sodium azide | 0.061 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (3S)-4-azido-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-oxoazetidine | 0.216 g | N(=[N+]=[N-])C1[C@@H](C(N1)=O)NC(C(=NOC)C=1N=C(SC1)NC(CCl)=O)=O | C11H11ClN8O4S
